US07678818B2
2-Amino-N-(4-tert-butyl-benzyl)-3-chloro-5-methyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide
2-Amino-N-(4-tert-butyl-benzyl)-5-methyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (60 mg, 0.128 mmol) was dissolved in acetonitrile (2 ml) and N-chlorosuccinimide (23 mg, 0.128 mmol) was added. The reaction was heated to 95° C. for 4 h. The reaction mixture was cooled to RT and partitionated between water and methylene chloride. The aqueous layer was extracted with methylene chloride and the combined organic phase was dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (heptane/ethyl acetate 7:3) to yield the desired product (18 mg, 28%) as a brown gum. MS (ISP) 503.3 (M+H)+.

reactant | 2-Amino-N-(4-tert-butyl-benzyl)-5-methyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 0.128 mmol, 60 mg | NC1=C(C(=O)N(CCC2=CC(=CC=C2)C(F)(F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C=C1)C | C28H31F3N2O
reactant | N-chlorosuccinimide | 0.128 mmol, 23 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-Amino-N-(4-tert-butyl-benzyl)-3-chloro-5-methyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 18 mg, 28% | NC1=C(C(=O)N(CCC2=CC(=CC=C2)C(F)(F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C=C1Cl)C | C28H30ClF3N2O
